### PR TITLE
chore: adaptations for nightly-2025-07-18

### PR DESCRIPTION
**Pull request by jcommelin**

### CODE REVIEW

File: Mathlib/CategoryTheory/Limits/Shapes/IsTerminal.lean [hunk 1]
```diff
@@ -111,7 +111,7 @@ def isInitialEquivUnique (F : Discrete.{0} PEmpty.{1} ⥤ C) (X : C) :
     { desc := fun s => (u s.pt).default
       uniq := fun s _ _ => (u s.pt).2 _ }
   left_inv := by dsimp [Function.LeftInverse]; intro; simp only [eq_iff_true_of_subsingleton]
-  right_inv := by grind
+  right_inv := by intro x; dsimp
```
Comment (jcommelin) [inline Mathlib/CategoryTheory/Limits/Shapes/IsTerminal.lean]:
```suggestion
  right_inv := by
    #adaptation_note /-- 19-07-2025 grind stopped working -/
    intro x; dsimp
```

File: Mathlib/Combinatorics/SimpleGraph/Turan.lean [hunk 2]
```diff
@@ -252,7 +252,7 @@ theorem card_parts [DecidableEq V] : #h.finpartition.parts = min (Fintype.card V
   have cf : G.CliqueFree r := by
     simp_rw [← cliqueFinset_eq_empty_iff, cliqueFinset, filter_eq_empty_iff, mem_univ,
       forall_true_left, isNClique_iff, and_comm, not_and, isClique_iff, Set.Pairwise]
-    intro z zc; push_neg; simp_rw [h.not_adj_iff_part_eq]
+    intro z zc; push_neg; simp_rw -congrConsts [h.not_adj_iff_part_eq]
```
Comment (jcommelin) [inline Mathlib/Combinatorics/SimpleGraph/Turan.lean:256]:
```suggestion
    #adaptation_note /-- 19-07-2025 added `-congrConsts` -/
    intro z zc; push_neg; simp_rw -congrConsts [h.not_adj_iff_part_eq]
```

File: Mathlib/NumberTheory/Divisors.lean [hunk 3]
```diff
@@ -516,7 +516,11 @@ theorem properDivisors_prime_pow {p : ℕ} (pp : p.Prime) (k : ℕ) :
   simp only [mem_properDivisors, mem_map, mem_range, Function.Embedding.coeFn_mk]
   have := mem_properDivisors_prime_pow pp k (x := a)
   rw [mem_properDivisors] at this
-  grind
+  -- grind  -- TODO: broke
```
Comment (jcommelin) [inline Mathlib/NumberTheory/Divisors.lean]:
```suggestion
  #adapation_note /-- 19-07-2025 `grind` stopped working -/
  -- grind
```
